US06878727B2
6-cyclopentyl-4-ethoxy-6-[4-(3-hydroxy-phenyl)-but-3-ynyl]-5,6-dihydro-pyran-2-one
The title compound was prepared analogously to Example 6, except 3-iodophenol was used for iodobenzene, and 6-but-3-ynyl-6-cyclopentyl-4-ethoxy-5,6-dihydro-pyran-2-one, described in Step 2 of that example, was used for 6-but-3-ynyl-6-cyclopentyl-dihydro-pyran-2,4-dione. 1H NMR (CDCl3): δ 1.26 (t, 2H, J=7.16 Hz), δ 1.51-1.81 (m, 8H), δ 2.10 (t, 2H, J=7.54 Hz), δ 2.36 (t, 1H, J=8.10 Hz), δ 2.48 (d, 1H, J=17.71 H), δ 2.52 (t, 2H, J=7.35 Hz), δ 2.68 (d, 1H, J=17.52 Hz), δ 3.94 (q, 2H, J=7.35 Hz), δ 5.14 (d, 2H, J=6.22 Hz), δ 6.77 (dd, 1H, J=5.65 Hz, J=2.45 Hz), δ 6.87 (s, 1H), δ 6.95 (d, 1H, J=6.59 Hz), δ 7.14 (t, 1H, J=7.91 Hz). Anal. Calcd. For C22H26O4 0.3 EtOAc: C, 73.16, H 7.52. Found: C, 73.18, H, 7.57; ESIMS (M+Na+) 377.1.

reactant | 3-iodophenol | IC=1C=C(C=CC1)O | C6H5IO
reactant | iodobenzene | IC1=CC=CC=C1 | C6H5I
reactant | 6-but-3-ynyl-6-cyclopentyl-4-ethoxy-5,6-dihydro-pyran-2-one | C(CC#C)C1(CC(=CC(O1)=O)OCC)C1CCCC1 | C16H22O3
reactant | 6-but-3-ynyl-6-cyclopentyl-dihydro-pyran-2,4-dione | C(CC#C)C1(CC(CC(O1)=O)=O)C1CCCC1 | C14H18O3
product | 6-cyclopentyl-4-ethoxy-6-[4-(3-hydroxy-phenyl)-but-3-ynyl]-5,6-dihydro-pyran-2-one | C1(CCCC1)C1(CC(=CC(O1)=O)OCC)CCC#CC1=CC(=CC=C1)O | C22H26O4
